US05565479
450 mg of sodium hydride (60%) was added to 5 ml of dimethylformamide, and a solution of 1.0 g of 4-cyanomethylimidazole in 10 ml of dimethylformamide was added dropwise to the resulting suspension. After 1 hour of stirring at room temperature, 0.94 ml of 2-propyl iodide was added to the resulting solution and stirred at room temperature for 2 hours. To the reaction solution was added water and chloroform, and the resulting organic layer was collected and dried over anhydrous sodium sulfate, followed by evaporation of the solvent. The residue was subjected to silica gel column chromatography eluted with chloroform-methanol (30:1) to obtain 500 mg of 4-cyanomethyl-1-(2-propyl)imidazole.

reactant | sodium hydride | 450 mg | [H-].[Na+]
reactant | 4-cyanomethylimidazole | 1.0 g | C(#N)CC=1N=CNC1 | C5H5N3
reactant | 2-propyl iodide | 0.94 ml | CC(C)I | C3H7I
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-cyanomethyl-1-(2-propyl)imidazole | 500 mg | C(#N)CC=1N=CN(C1)C(C)C | C8H11N3
